US05167695
3-Ethyl-2-hydroxyimidazo[4,5-h]quinoline
22.4 g (0.12 mol) of 8-amino-7-ethylaminoquinoline and 9 g (0.15 mol) of urea are heated at 160° C. for 2 h, stirring vigorously. The mixture is allowed to cool to 140° C., and 50 ml of water are slowly added dropwise. After further cooling to 100° C., another 100 ml of water are added. The precipitate is filtered off with suction, washed again with hot water and dried under reduced pressure.

reactant | 8-amino-7-ethylaminoquinoline | 0.12 mol, 22.4 g | NC=1C(=CC=C2C=CC=NC12)NCC | C11H13N3
reactant | urea | 0.15 mol, 9 g | NC(=O)N | CH4N2O
solvent | water | 100 ml | O | H2O
solvent | water | 50 ml | O | H2O
product | 3-Ethyl-2-hydroxyimidazo[4,5-h]quinoline | C(C)N1C(=NC2=C1C=CC=1C=CC=NC21)O | C12H11N3O
